US06008224
Oxalyl chloride (880 mg) was added to a solution of 3-benzyloxypropionic acid (1.04 g) in benzen (10 ml). Subsequently, dimethylformamide (100 mg) was added. After the resultant mixture was stirred for 30 minutes at room temperature, benzen was distilled off. Azeotropic distillation was performed twice through use of benzen (10 ml), and the resultant residue was dissolved in tetrahydrofuran (10 ml). To the solution were added 3-methyl-3-oxetanyl-methyl alcohol (620 mg) and then triethylamine (620 mg). The mixture was stirred for 5 hours at room temperature. Ethyl acetate was added to the reaction mixture, followed by washing with sat. aq. K2CO3, water, 1N-HCl, water, and saturated brine and then drying over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate-hexane 2:1), to give 1.01 g of 3-methyl-3-oxetanylmethyl 3-benzyloxypropionate as a pale yellow oil.

reactant | Oxalyl chloride | 880 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-benzyloxypropionic acid | 1.04 g | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
reactant | dimethylformamide | 100 mg | CN(C=O)C | C3H7NO
reactant | benzen | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-3-oxetanylmethyl 3-benzyloxypropionate | 1.01 g | C(C1=CC=CC=C1)OCCC(=O)OCC1(COC1)C | C15H20O4
